US09120749B2
6-(3-(dimethylamino)pyrrolidin-1-yl)pyridin-3-amine
Following General procedure H, 2-chloro-5-nitropyridine (500 mg, 3.1 mmol) was reacted with N,N-dimethylpyrrolidin-3-amine (400 mg, 3.5 mmol) followed by reduction to afford the desired product (360 mg, 56%) as a purple solid: ESI MS m/z 207 [C11H18N4+H]+.

reactant | 2-chloro-5-nitropyridine | 3.1 mmol, 500 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | N,N-dimethylpyrrolidin-3-amine | 3.5 mmol, 400 mg | CN(C1CNCC1)C | C6H14N2
product | 6-(3-(dimethylamino)pyrrolidin-1-yl)pyridin-3-amine | 360 mg, 56% | CN(C1CN(CC1)C1=CC=C(C=N1)N)C | C11H18N4
